US08242130B2
2-(4-Methoxy-2-nitrophenyl)-4H-chromen-4-one (1.5 g, 5.04 mmol) was dissolved in ethanol (30 mL) and heated at reflux. SnCl2 (4.97 g 26.23 mmol) was added. The mixture was heated under reflux for 20 min. The reaction mixture was cooled to rt diluted with water, neutralized and extracted with ethyl acetate to give the crude compound. This was purified by column chromatography using 3% MeOH in CH2Cl2 to give 2-(2-amino-4-methoxyphenyl)-4H-chromen-4-one (790 mg, 58%).

reactant | 2-(4-Methoxy-2-nitrophenyl)-4H-chromen-4-one | 5.04 mmol, 1.5 g | COC1=CC(=C(C=C1)C=1OC2=CC=CC=C2C(C1)=O)[N+](=O)[O-] | C16H11NO5
reactant | SnCl2 | 26.23 mmol, 4.97 g | Cl[Sn]Cl
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(2-amino-4-methoxyphenyl)-4H-chromen-4-one | 790 mg, 58% | NC1=C(C=CC(=C1)OC)C=1OC2=CC=CC=C2C(C1)=O | C16H13NO3
